plaintext
* SPICE Netlist
VDD 5 0 DC VDD
ISS 5 2 DC ISS

* PMOS Transistors
M1 2 8 5 5 PMOS
M2 2 9 6 6 PMOS

* NMOS Transistors
M3 1 8 7 7 NMOS
M4 2 9 3 3 NMOS

* Source Definitions
Vin1 8 0 DC 0
Vin2 9 0 DC 0
Iout1 1 0 DC 0
Iout2 2 0 DC 0

* Capacitors not explicitly specified, presumed to ground
* Resistors not specified, use ideal connections

.END